US04550105
To 50 ml of dry N,N-dimethylformamide are added 10 g of N-hydroxyphthalimide and 9.38 g of methyl bromoacetate, followed by addition of 8.5 g of potassium carbonate. The mixture is stirred at room temperature for 2 days and, then, poured into 400 ml of water. The resulting crystalline precipitate is recovered by filtration, washed with water, hexane and ether in this order to give colorless needles of N-methoxycarbonylmethyloxyphthalimide, m.p. 137°-142° C.

reactant | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
reactant | N-hydroxyphthalimide | 10 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | methyl bromoacetate | 9.38 g | BrCC(=O)OC | C3H5BrO2
reactant | potassium carbonate | 8.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 400 ml | O | H2O
product | N-methoxycarbonylmethyloxyphthalimide | COC(=O)CON1C(C=2C(C1=O)=CC=CC2)=O | C11H9NO5
